US06255333B1
3-Cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-5-(N-pyrrolyl)4-trimethylsilylethynylpyrazole
To a stirred solution of 3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)4-iodo-5-(N-pyrrolyl)pyrazole (0.55 g) in triethylamine (1 ml) and dimethylformamide (10 ml) was added trimethylsilylacetylene (1 ml), cuprous iodide (15 mg) and bis(triphenylphosphine)palladium (II) chloride (30 mg). The reaction mixture was heated at 70° C. for 24 hours, and then poured into water (100 ml) and diethyl ether (100 ml). The organic layer was dried over MgSO4 and the solvent was evaporated. The crude product was purified by chromatography on silica gel (50 g), eluting with dichloromethane: hexane (1:1), giving the title compound as a pale brown solid.

reactant | 3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)4-iodo-5-(N-pyrrolyl)pyrazole | 0.55 g | C(#N)C1=NN(C(=C1I)N1C=CC=C1)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C15H6Cl2F3IN4
reactant | trimethylsilylacetylene | 1 ml | C[Si](C)(C)C#C | C5H10Si
reactant | water | 100 ml | O | H2O
reactant | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
catalyst | bis(triphenylphosphine)palladium (II) chloride | 30 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 3-Cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-5-(N-pyrrolyl)4-trimethylsilylethynylpyrazole | C(#N)C1=NN(C(=C1C#C[Si](C)(C)C)N1C=CC=C1)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C20H15Cl2F3N4Si
